US09278940B2
To a stirred suspension of methyl 2-(piperazin-1-yl)acetate dihydrochloride (0.67 g, 2.92 mmol) in dry DMSO (1.5 mL) was added 1,1,3,3-tetramethylguanidine (0.15 g, 1.07 mmol). The resulting mixture was stirred at rt for 10 min. Then 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.40 g, 1.33 mmol) was added as a solid. The reaction was heated at 90° C. for 4.5 h. After that time the reaction was cooled to rt and diluted with ethyl acetate (30 mL). The organic phase was washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 98:2 dichloromethane/methanol) followed by trituration with diethyl ether to give methyl 2-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)acetate (0.357 g, 61%) as a light yellow solid: mp 176-177° C.; 1H NMR (400 MHz, CDCl3) δ 10.30 (br s, 1H), 7.86 (d, J=7.03 Hz, 1H), 7.63-7.71 (m, 1H), 6.80-6.86 (m, 2H), 6.48 (d, J=2.34 Hz, 1H), 3.99 (s, 3H), 3.94 (s, 3H), 3.77 (s, 3H), 3.67-3.73 (m, 4H), 3.34 (s, 2H), 2.73-2.79 (m, 4H); ESI MS m/z 440 [M+H]+.

reactant | methyl 2-(piperazin-1-yl)acetate dihydrochloride | 2.92 mmol, 0.67 g | Cl.Cl.N1(CCNCC1)CC(=O)OC
reactant | 1,1,3,3-tetramethylguanidine | 1.07 mmol, 0.15 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 1.33 mmol, 0.40 g | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)acetate | 0.357 g, 61% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=CC(=N1)N1CCN(CC1)CC(=O)OC)=O | C22H25N5O5
